US07632851B2
2Benzo[1,2,5]oxadiazol-5-yl-5-(2-fluoro-ethylamino)-phenol
10 mg (0.03 mmol) of (4-benzo[1,2,5]oxadiazol-5-yl-3-methoxy-phenyl)-(2-fluoro-ethyl)-amine are dissolved in 0.3 mL acetic acid and 0.3 mL hydrobromic acid (33% in acetic acid) and stirred at 80 QC for 72 h. Then the solvents are removed. The mixture of starting material and desired product can be separated by HPLC (20 to 100% CH3CN/H2O (6′), 100% CH3CN (1.5°), 100 to 20% CH3CN/H2O (0.5°): product elutes after 4.5°). MS(ES+): 274 (M+1).

reactant | (4-benzo[1,2,5]oxadiazol-5-yl-3-methoxy-phenyl)-(2-fluoro-ethyl)-amine | 0.03 mmol, 10 mg | N1=C2C(=NO1)C=C(C=C2)C2=C(C=C(C=C2)NCCF)OC | C15H14FN3O2
reactant | hydrobromic acid | 0.3 mL | Br | BrH
solvent | acetic acid | 0.3 mL | C(C)(=O)O | C2H4O2
product | 2Benzo[1,2,5]oxadiazol-5-yl-5-(2-fluoro-ethylamino)-phenol | N1=C2C(=NO1)C=C(C=C2)C2=C(C=C(C=C2)NCCF)O | C14H12FN3O2
